US06372759B1
C) N1-(6-Indolylcarbonyl)-N2-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonyl]-1,2-benzenediamine
A solution of 1-benzyloxycarbonyl-6-indolecarboxylic acid (452 mg, 1.53 mmol), N1-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonyl]-1,2-benzenediamine (500 mg, 1.53 mmol), and EDC (294 mg, 1.53 mmol) in DMF (2.5 mL) was allowed to stir overnight (about 18 h). The mixture was poured into ethyl acetate and H2O, the aqueous layer was washed with EtOAc (3×), and the combined organic extracts were washed with 1 N NaOH (2×), H2O, brine, and dried (K2CO3). Concentration and purification of the residue by flash chromatography (SiO2) followed by recrystallization (MeOH/ether) yielded 60 mg (8%) of the title compound.

reactant | 1-benzyloxycarbonyl-6-indolecarboxylic acid | 1.53 mmol, 452 mg | C(C1=CC=CC=C1)OC(=O)N1C=CC2=CC=C(C=C12)C(=O)O | C17H13NO4
reactant | N1-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonyl]-1,2-benzenediamine | 1.53 mmol, 500 mg | N1=CC=C(C=C1)N1CCC(CC1)COC(=O)NC=1C(=CC=CC1)N | C18H22N4O2
reactant | EDC | 1.53 mmol, 294 mg
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | N1-(6-Indolylcarbonyl)-N2-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonyl]-1,2-benzenediamine | 60 mg, 8% | N1C=CC2=CC=C(C=C12)C(=O)NC=1C(=CC=CC1)NC(=O)OCC1CCN(CC1)C1=CC=NC=C1 | C27H27N5O3
